US08871720B2
Preparation of Dap-Z
A 1-L round bottom flask is charged with Fmoc-Dap-Z, CH2Cl2 (122 mL) and diethylamine (61 mL, Acros). The solution is stirred at room temperature and the completion monitored by HPLC. After 7h, the mixture is concentrated (bath temp. <30° C.). The residue is suspended in CH2Cl2 (300 mL) and concentrated. This is repeated twice. To the residue is added MeOH (20 mL) and CH2Cl2 (300 mL), and the solution is concentrated. The residue is suspended in CH2Cl2 (100 mL) and toluene (400 mL), concentrated, and the residue left under vacuum overnight to give product.

reactant | Fmoc-Dap-Z | N([C@@H](CN)C(=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H24N2O5
reactant | diethylamine | 61 mL | C(C)NCC | C4H11N
solvent | CH2Cl2 | 122 mL | C(Cl)Cl | CH2Cl2
product | Dap-Z | N[C@@H](CN)C(=O)C(=O)OCC1=CC=CC=C1 | C11H14N2O3
